US08314138B2
Synthesis of 2-[1-(3-cyano-benzyl)-1H-pyrazol-3-yl]-4-methyl-thiazole-5-carboxylic acid (pyridin-3-ylmethyl)amide
The title compound was prepared from 4-methyl-2-(2H-pyrazol-3-yl)-thiazole-5-carboxylic acid (pyridin-3-ylmethyl)-amide and 3-bromomethyl-benzonitrile as described in Example 49 and isolated as white solid (0.054 g, 40% yield). 1H NMR (400 MHz, CDCl3) δ 8.61 (s, 1H), 8.54-8.56 (m, 1H), 7.71 (d, J=8 Hz, 1H), 7.60-7.63 (m, 1H), 7.46-7.51 (m, 3H), 7.28-7.31 (m, 2H), 6.89 (s, 1H), 6.17-6.21 (m, 1H), 5.38 (s, 2H), 4.63 (d, J=8 Hz, 2H), 2.75 (s, 3H); MS (M+H)+=415.2; Rt=1.16 min; HRMS (M+H)+=415.13.

reactant | 4-methyl-2-(2H-pyrazol-3-yl)-thiazole-5-carboxylic acid (pyridin-3-ylmethyl)-amide | N1=CC(=CC=C1)CNC(=O)C1=C(N=C(S1)C=1NN=CC1)C | C14H13N5OS
reactant | 3-bromomethyl-benzonitrile | BrCC=1C=C(C#N)C=CC1 | C8H6BrN
product | 2-[1-(3-cyano-benzyl)-1H-pyrazol-3-yl]-4-methyl-thiazole-5-carboxylic acid (pyridin-3-ylmethyl)amide | N1=CC(=CC=C1)CNC(=O)C1=C(N=C(S1)C1=NN(C=C1)CC1=CC(=CC=C1)C#N)C | C22H18N6OS
